US04206225
3-(2,5-Dihydroxyphenyl)-1-phenoxybutane
A solution of 3-(2,5-dibenzyloxyphenyl)-1-phenoxybutane (14.7 g., 133.5 mM) in a mixture of ethyl acetate (110 ml.), ethanol (110 ml.) and concentrated hydrochloric acid (0.7 ml.) is hydrogenated for 2 hours under 60 p.s.i. hydrogen in the presence of 10% palladium-on-carbon (1.5 g.). Removal of the catalyst by filtration and concentration of the filtrate gives an oil. The oil is purified by chromatography on silica gel (100 g.) and eluting with benzene-ethyl acetate consisting of 0-10% ethyl acetate. The middle fractions are combined and concentrated to give the title product.

reactant | 3-(2,5-dibenzyloxyphenyl)-1-phenoxybutane | 133.5 mM, 14.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(CCOC1=CC=CC=C1)C | C30H30O3
reactant | ethanol | 110 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 110 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 1.5 g | [Pd] | Pd
product | 3-(2,5-Dihydroxyphenyl)-1-phenoxybutane | OC1=C(C=C(C=C1)O)C(CCOC1=CC=CC=C1)C | C16H18O3
